US04954502
(b) 2-bromo-5-chloro-3-methoxypyridine
To a stirred mixture of 2-bromo-5-chloro-3-pyridinol (15.66 g) and pulverized KOH (16.79 g) in DMSO (100 mL) at 55-60° C. was added dropwise a solution of CH3I (13.27 g) in DMSO (35 mL) while under nitrogen atmosphere. After the addition was complete, the reaction was maintained at 55°-60° C. for 1 h. The reaction was extracted with Et2O (3×150 mL) and the combined Et2O extracts were treated in turn with 1N NaOH (150 mL), water (150 mL), 1N HCl (150 mL), water (150 mL), and a saturated NaCl solution (150 mL). The organic phase was dried with MgSO4, filtered, and concentrated under reduced pressure to yield a solid material. Recrystallization of the solid from hexane afforded b) (3.52 g, 21%).

reactant | 2-bromo-5-chloro-3-pyridinol | 15.66 g | BrC1=NC=C(C=C1O)Cl | C5H3BrClNO
reactant | KOH | 16.79 g | [OH-].[K+]
reactant | CH3I | 13.27 g | CI | CH3I
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
solvent | DMSO | 35 mL | CS(=O)C | C2H6OS
product | 2-bromo-5-chloro-3-methoxypyridine | BrC1=NC=C(C=C1OC)Cl | C6H5BrClNO
